US04695569
7.5 Parts of 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine and 3.6 parts of urea were heated together till about 220° C. during 10 minutes. The resulting melt was cooled and suspended in water. The solid was filtered off, washed with water and ethanol and recrystallized from a mixture of N,N-dimethylacetamide, ethanol and water, yielding 3.9 parts (49.9%) of 6-chloro-9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-7,9-dihydro-8H-purin-8-one; mp. 266.2° C. (compound 144).

reactant | 6-chloro-N4 -[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-4,5-pyrimidinediamine | ClC1=C(C(=NC=N1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)N | C25H28ClFN8
reactant | urea | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6-chloro-9-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-7,9-dihydro-8H-purin-8-one | 49.9% | ClC1=C2NC(N(C2=NC=N1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O | C26H26ClFN8O
